US05605914
The procedure of Example 46 is utilized starting with 3-phthalimido-3-(3,4'-dimethoxyphenyl)propionic acid and benzylamine (1.0 equiv) to afford 2.45 g (92%) of 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionic benzylamide as white powder: mp 208.4°-209.8° C.; 1H NMR (DMSO-d6, 250 MHz) δ 8.60 (t, 1 H, J=6 Hz), 7.78-7.92 (m, 4 H), 6.85-7.20 (m, 8 H), 5.73 (t, 1 H, J=8 Hz), 4.10-4.30 (m, 2 H), 3.73 (s, 3 H), 3.72 (s, 3 H), 3.20-3.45 (m, 2 H); 13C NMR (DMSO-d6) δ 169.1, 167.7, 148.5, 148.3, 139.2, 134.5, 131.4, 131.2, 127.9, 126.7, 123.1, 119.5, 111.5, 111.2, 101.9, 55.4, 55.37, 50.6, 41.7, 37.4; Anal. Calcd. for C26H24N2O5. Theoretical: C, 70.26; H, 5.44; N, 6.30. Found: C, 70.12; H, 5.53; N, 6.25.

reactant | 3-phthalimido-3-(3,4'-dimethoxyphenyl)propionic acid | C1(C=2C(C(N1C(CC(=O)O)C1=CC(=C(C=C1)OC)OC)=O)=CC=CC2)=O | C19H17NO6
reactant | benzylamine | 1.0 equiv | C(C1=CC=CC=C1)N | C7H9N
product | 3-phthalimido-3-(3',4'-dimethoxyphenyl)propionic benzylamide | 2.45 g, 92% | C(C1=CC=CC=C1)NC(CC(C1=CC(=C(C=C1)OC)OC)N1C(C=2C(C1=O)=CC=CC2)=O)=O | C26H24N2O5
